US05189049
EXAMPLE 35 N-[4-(2,4,6-Trimethylphenyl)-2-thiazolyl]-1-tert-butoxycarbonyl-indoline-2-carboxamide.
21 g of 1-tert-butoxycarbonyl-indoline-2-carboxylic acid, then 35.2 g of 1-benzotriazolyl-oxytris (dimethylamino)phosphonium hexafluorophosphate (BOP) and the 24.2 g of triethylamine are added successively to a solution of 23.5 g of 2-amino-4-(2,4,6-trimethylphenyl)thiazole hydrobromide in 250 ml of dimethylformamide. The reaction mixture is stirred at ambient temperature for 12 h. The solvent is then evaporated under reduced pressure and 150 ml of ethyl acetate are poured onto the residue. The organic solution is washed with a saturated aqueous NaCl solution and dried over anhydrous magnesium sulphate. The solid obtained after evaporation of the solvent is washed with diisopropyl ether. Yield: 95%.

reactant | 1-tert-butoxycarbonyl-indoline-2-carboxylic acid | 21 g | C(C)(C)(C)OC(=O)N1C(CC2=CC=CC=C12)C(=O)O | C14H17NO4
reactant | 1-benzotriazolyl-oxytris (dimethylamino)phosphonium hexafluorophosphate | 35.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 24.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4-(2,4,6-trimethylphenyl)thiazole hydrobromide | 23.5 g | Br.NC=1SC=C(N1)C1=C(C=C(C=C1C)C)C
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | N-[4-(2,4,6-Trimethylphenyl)-2-thiazolyl]-1-tert-butoxycarbonyl-indoline-2-carboxamide | Yield: 95% | CC1=C(C(=CC(=C1)C)C)C=1N=C(SC1)NC(=O)C1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C26H29N3O3S
